US07491735B2
To a solution of 4-bromoanisole (5.00 g, 26.70 mmol) in THF (100 mL) at −78° C. was added n-BuLi (1.9M in hexanes, 14 mL, 26.7 mmol). After the solution was stirred at −78° C. for 45 minutes, TMEDA (4.03 mL, 26.7 mmol) was added followed by a solution of 4-formyl-piperidine-1-carboxylic acid tert-butyl ester (4.76 g, 22.3 mmol) in THF (20 mL), and the mixture was stirred at −78° C. for 1 hour. The reaction was quenched with saturated aqueous NH4Cl and after work-up and purification gave 4-[hydroxy-(4-methoxy-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (3.40 g, 47%) as a white foam.

reactant | 4-bromoanisole | 26.70 mmol, 5.00 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | n-BuLi | 26.7 mmol, 1.9M, 14 mL | [Li]CCCC
reactant | TMEDA | 26.7 mmol, 4.03 mL | CN(C)CCN(C)C | C6H16N2
reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 22.3 mmol, 4.76 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[hydroxy-(4-methoxy-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 3.40 g, 47% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)OC)O | C18H27NO4
